US08013010B2
4-(1H-Imidazol-1-yl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
A mixture of 3 g (22 mmol) of zinc chloride, 5 g of 4 Å molecular sieve, 6.5 g of zinc oxide, 9 g (25 mmol) of 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranosyl bromide, 3.2 g (20 mmol) of 4-(1H-imidazol-1-yl)phenol, 70 ml of toluene and 70 ml of acetonitrile is prepared. The mixture is kept stirred at 55° C. for 24 hours and then cooled and filtered. The residual solid is rinsed on the filter with ethyl acetate and the combined filtrates are successively washed with water, with an N sodium hydroxide solution and again with water to neutral pH. The organic phase is subsequently dried over magnesium sulfate and concentrated under reduced pressure. The crude product obtained is purified by chromatography on silica gel, elution being carried out using an ethyl acetate/ethyl ether mixture (8/5; v/v). The expected compound is thus obtained in the form of a pulverulent solid which is reacted further in order to obtain the nonacetylated xyloside.

reactant | 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranosyl bromide | 25 mmol, 9 g | C(C)(=O)O[C@H]1[C@@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
reactant | 4-(1H-imidazol-1-yl)phenol | 20 mmol, 3.2 g | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 22 mmol, 3 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc oxide | 6.5 g | [O-2].[Zn+2]
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 4-(1H-Imidazol-1-yl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)N2C=NC=C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C20H22N2O7S
